US05641777
B) 4-(2-Bromoacetyl)-4-phenylpiperidine hydrobromide
7.9 g of bromine are added rapidly at RT to a suspension of 14 g of 4-acetyl-4-phenylpiperidine hydrobromide in 200 ml of DCM and the reaction mixture is stirred overnight at RT. It is diluted by the addition of 200 ml of ether and the precipitate formed is wrung and washed with ether to give 16.7 g of the expected product after drying under vacuum.

reactant | bromine | 7.9 g | BrBr | Br2
reactant | 4-acetyl-4-phenylpiperidine hydrobromide | 14 g | Br.C(C)(=O)C1(CCNCC1)C1=CC=CC=C1
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-Bromoacetyl)-4-phenylpiperidine hydrobromide | 16.7 g | Br.BrCC(=O)C1(CCNCC1)C1=CC=CC=C1 | InChI=1S/C13H16BrNO.BrH/c14-10-12(16)13(6-8-15-9-7-13)11-4-2-1-3-5-11;/h1-5,15H,6-10H2;1H
